US07217723B2
b) 3-(4-Fluoro-3-methoxyphenyl)propionic acid
To a solution of 3-(4-fluoro-3-methoxyphenyl)acrylic acid ethyl ester (4.54 g) in ethyl acetate (20 mL)-ethanol (20 mL) was added 10% percent palladium-carbon (450 mg). After stirring under hydrogen gas atmosphere for 2.5 hours, the metal catalyst was removed by filtration, the solvent was removed by evaporation, and an oily substance (4.64 g) was obtained. This was dissolved in a solution of ethanol (40 mL), an aqueous solution of 5N sodium hydroxide was added, and the solution was stirred at room temperature for 30 minutes. After the solution was acidified by adding 5N hydrochloric acid (21 mL), the solid precipitated. After diluting with water, the solid was collected by filtration, dried by aeration, and a colorless solid (3.4 g) was obtained.

reactant | 3-(4-fluoro-3-methoxyphenyl)acrylic acid ethyl ester | 4.54 g | C(C)OC(C=CC1=CC(=C(C=C1)F)OC)=O | C12H13FO3
reactant | sodium hydroxide | 5N | [OH-].[Na+]
reactant | hydrochloric acid | 5N, 21 mL | Cl | ClH
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 40 mL | C(C)O | C2H6O
catalyst | palladium-carbon | 450 mg | [C].[Pd]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 3-(4-Fluoro-3-methoxyphenyl)propionic acid | 3.4 g | FC1=C(C=C(C=C1)CCC(=O)O)OC | C10H11FO3
